US06310211B1
N-[(4-Chlorophenyl)methyl]-8-hydroxy-2-methyl-7-quinolinecarboxamide (Formula C-3 wherein R1 is —H, R2 is —CH3, and X is —Cl) Refer to Chart C
To a solution of 8-hydroxy-2-methylquinoline-7-carboxylic acid (0.305 g) of Preparation 5 and 4-chlorobenzylamine (0.219 g) in 20 mL DMF is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.305 g) and 1-hydroxybenzotriazole monohydrate (0.217 g). The mixture is stirred overnight. The solution is then poured into 30 mL ice-water. The resulting solid is collected and dried to yield 0.337 g of the title product as an off-white solid.

reactant | 8-hydroxy-2-methylquinoline-7-carboxylic acid | 0.305 g | OC=1C(=CC=C2C=CC(=NC12)C)C(=O)O | C11H9NO3
reactant | 4-chlorobenzylamine | 0.219 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.305 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.217 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[(4-Chlorophenyl)methyl]-8-hydroxy-2-methyl-7-quinolinecarboxamide | 0.337 g | ClC1=CC=C(C=C1)CNC(=O)C1=CC=C2C=CC(=NC2=C1O)C | C18H15ClN2O2
